*****************************************************************
* NXP PSMN6R0-30YLB
*
* Polarity N-Channel
* Ratings 30V/6.500000E-003OHMS/71A
*
* Date Created Thu Sep 01 00:47:49 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN6R0-30YLB DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.0125663706143592
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.26194671058465
RLS1 8 7 0.00035

RDS 7 4 3000000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.00439018868702059 TC=0.00591988893840771,1.05257822267773E-07
RBD 9 4 0.00140426120361838 TC=0.00591988893840771,1.05257822267773E-07
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 9.9e-10
RG 1 2 1.59271376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -16	1001
+ -10	999.83
+ -5	994.34
+ -4	989.61
+ -3	965.65
+ -2	770.52
+ -1	614.55
+ -0.5	521.9
+ -0.2	457.97
+ -0.1	437.2
+ 0	398.82
+ 0.1	365.71
+ 0.2	350.93
+ 0.5	301.69
+ 1	226.16
+ 2	157.27
+ 3	131.28
+ 4	117.07
+ 5	107.91
+ 6	101.35
+ 8	92.53
+ 10	86.13
+ 12	82.24
+ 15	78.16
+ 20	72.85
+ 25	67.54
+ 30	62.23



.MODEL MINT NMOS(Vto=1.91181269900947 Kp=1.876669e+002 Nfs=450000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=34 Ibv=2.500000E-004 Rs=1E-6 Is=1.0054382624466e-12
+ N=1 M=0.57 VJ=0.63 Fc=0.5 Cjo=1.25047e-09 Tt=2.5476e-08)

.ENDS

